*ZETEX  FMMT634 Darlington Spice Subcircuit   Last revision  17/10/97 
*
.SUBCKT FMMT634 1 2 3
*               C B E
Q1 5 2 4 SUB634
Q2 5 4 3 SUB634 4.45
R1 1 5 .27
*
.MODEL SUB634 NPN IS=4.5E-14 ISE=1E-14 NF =1 NE =1.45 BF =250 IKF=.16 
+RE=.09 RB=1 BR =12 IKR=.15  VAF=240 CJE=65E-12 CJC=7E-12
+VJC=.85 MJC=.45 TF =.95E-9 TR =300E-9 
.ENDS FMMT634
*
*
*                          (C)  1991 ZETEX PLC
*
*   The copyright in this model  and  the design embodied belong to
*   Zetex PLC ("Zetex"). It is supplied free of charge by Zetex for
*   the purpose  of research  and design  and may be used or copied
*   intact (including this notice) for that purpose only. All other
*   rights  are  reserved.  The model  is believed  accurate but no
*   condition or warranty as to its  merchantability or fitness for
*   purpose  is  given  and  no liability  in respect of any use is
*   accepted by Zetex PLC, its distributors or agent.
*
*
*   Zetex PLC, Fields New Road, Chadderton, Oldham  OL9 8NP
